US08541588B2
4-(4-Chloro-2-iodophenoxy)-N-(5-chloro-1,3-thiazol-2-yl)-3-cyanobenzenesulfonamide
To a stirred suspension of 4-chloro-2-iodophenol (305 mg, 1.20 mmol) and potassium carbonate (207 mg, 1.5 mmol) in dimethyl sulphoxide (5.0 ml) was added N-(5-chloro-1,3-thiazol-2-yl)-3-cyano-N-(2,4-dimethoxybenzyl)-4-fluorobenzenesulfonamide (Preparation 207, 468 mg, 1.00 mmol). Suspension stirred at room temperature for 18 hours. The reaction mixture was poured into ethyl acetate (20 ml) and saturated aqueous ammonium chloride solution (20 ml) and the aqueous layer extracted with ethyl acetate (3×20 ml). Combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The crude residue was dissolved in dichloromethane (5 ml), trifluoroacetic acid (5 ml) was added and the reaction mixture was stirred at room temperature for 2 hours. The solvent was concentrated in vacuo and purified by ISCO™ preparative system eluting with dichloromethane:ethyl acetate (gradient 1:0 to 6:4, by volume) to afford the title compound as a solid, 396 mg, 72% yield.

reactant | 4-chloro-2-iodophenol | 1.20 mmol, 305 mg | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(5-chloro-1,3-thiazol-2-yl)-3-cyano-N-(2,4-dimethoxybenzyl)-4-fluorobenzenesulfonamide | 1.00 mmol, 468 mg | ClC1=CN=C(S1)N(S(=O)(=O)C1=CC(=C(C=C1)F)C#N)CC1=C(C=C(C=C1)OC)OC | C19H15ClFN3O4S2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | dimethyl sulphoxide | 5.0 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Chloro-2-iodophenoxy)-N-(5-chloro-1,3-thiazol-2-yl)-3-cyanobenzenesulfonamide | 72% yield | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC=2SC(=CN2)Cl)C#N)C=C1)I | C16H8Cl2IN3O3S2
